US08252797B2
To a stirred solution of [5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-acetonitrile (0.25 g, 0.93 mmol) in ethanol (6 mL) was added sodium hydroxide solution (0.074 g, 1.86 mmol, in 3 ml water). The reaction mixture was refluxed for 3 hrs and the solvents were removed under reduced pressure, diluted with water (3 ml), washed with hexane (3×10 mL) and acidified with 2N HCl. The aqueous layer was extracted with DCM (3×15 mL) and the combined extract was washed with brine, dried with Na2SO4, evaporated under reduced pressure to obtain [5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-acetic acid (0.2 g, 77%) as an off white semi solid.

reactant | [5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-acetonitrile | 0.93 mmol, 0.25 g | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)CC#N | C13H11F3N2O
reactant | sodium hydroxide | 1.86 mmol, 3 ml, 0.074 g | [OH-].[Na+]
reactant | ethanol | 6 mL | C(C)O | C2H6O
product | [5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-acetic acid | 0.2 g, 77% | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)CC(=O)O | C13H12F3NO3
